US07319103B2
Using the method described for the preparation of 6,7,8,9-Tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]inden-10-ol, the reaction of 4-oxo-tetrahydro-furan-3-carboxylic acid methyl ester and 2H-pyrazol-3-ylamine in acetic acid provided the desired 5H,7H-6-Oxa-1,4,8a-triaza-s-indacen-8-ol.

reactant | 6,7,8,9-Tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]inden-10-ol | N1=CC=C2N=C3C(=C(N12)O)CCCCC3 | C11H13N3O
reactant | 4-oxo-tetrahydro-furan-3-carboxylic acid methyl ester | COC(=O)C1COCC1=O | C6H8O4
reactant | 2H-pyrazol-3-ylamine | N=1NC(=CC1)N | C3H5N3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5H,7H-6-Oxa-1,4,8a-triaza-s-indacen-8-ol | N1=CC=C2N=C3COCC3=C(N12)O | C8H7N3O2
